US07635715B2
Step A: Preparation of 4-(3,4-Difluorophenyl)-tetrahydro-2H-pyran-4-carbonitrile
A mixture 2-(3,4-difluorophenyl)acetonitrile (25.00 g, 163 mmol) and 2-bromoethyl ether (22.8 mL, 163 mmol) in ether was added dropwise through an addition funnel to a mixture of sodium 2-methylpropan-2-olate (39.2 g, 408 mmol) in DMF (163 mL) at 0° C. The reaction was then allowed to warm to ambient temperature and stirred for 3 hours. The reaction mixture was quenched with 12N HCl, diluted with 400 mL of EtOAc, added to a separatory funnel, partitioned with NaHCO3 (saturated, aqueous), washed 2 times with 100 mL of NaHCO3 (saturated, aqueous), separated, dried over Na2SO4, and concentrated in vacuo to give the title compound which was used without further purification. MS (m/z)=224 (M+H)+.

reactant | 2-(3,4-difluorophenyl)acetonitrile | 163 mmol, 25.00 g | FC=1C=C(C=CC1F)CC#N | C8H5F2N
reactant | 2-bromoethyl ether | 163 mmol, 22.8 mL | BrCCOCCBr | C4H8Br2O
reactant | sodium 2-methylpropan-2-olate | 408 mmol, 39.2 g | CC(C)(C)[O-].[Na+]
solvent | ether | CCOCC | C4H10O
solvent | DMF | 163 mL | CN(C)C=O | C3H7NO
product | 4-(3,4-Difluorophenyl)-tetrahydro-2H-pyran-4-carbonitrile | FC=1C=C(C=CC1F)C1(CCOCC1)C#N | C12H11F2NO
